US06762205B1
1.08 g of phenylhydrazine was dissolved in 10 ml of pyridine, and 0.78 g of acetic anhydride was added thereto under cooling with ice, followed by stirring for 20 minutes. Then, 2.0 g of 4-methoxybenzoyl chloride was added thereto, followed by stirring at room temperature for 15 hours. After water was added to the reaction mixture, the product was extracted with ethyl acetate. The organic layer was washed with 5% hydrochloric acid and a 5% aqueous solution of sodium hydroxide, and dried over anhydrous sodium sulfate. After the solvent was distilled off, the resulting crude product was purified by silica gel column chromatography (using a 40:1 mixture of chloroform and methanol as the eluent) to obtain 1.0 g of N′-acetyl-4-methoxy-N-phenylbenzohydrazide.

reactant | phenylhydrazine | 1.08 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetic anhydride | 0.78 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-methoxybenzoyl chloride | 2.0 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N′-acetyl-4-methoxy-N-phenylbenzohydrazide | 1.0 g | C(C)(=O)NN(C(C1=CC=C(C=C1)OC)=O)C1=CC=CC=C1 | C16H16N2O3
